US05910498
Ethyl 8-chloro-6,7-difluoro-1-(2,4,6-trifluoro-3-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate
To 830 mg of 8-chloro-6,7-difluoro-1-(2,4,6-trifluoro-3-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid was added 2 ml of thionyl chloride. The solution was stirred at 80° C. overnight. With ice cooling, 4 ml of ethanol was slowly added dropwise to the reaction solution. The reaction solution was distilled of the solvent whereupon the precipitated solid was collected by filtration to give 310 mg of the title compound.

reactant | 8-chloro-6,7-difluoro-1-(2,4,6-trifluoro-3-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 830 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C(=C(C=C1F)F)[N+](=O)[O-])F)C(=O)O)=O)F)F | C16H4ClF5N2O5
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 4 ml | C(C)O | C2H6O
product | Ethyl 8-chloro-6,7-difluoro-1-(2,4,6-trifluoro-3-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 310 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C(=C(C=C1F)F)[N+](=O)[O-])F)C(=O)OCC)=O)F)F | C18H8ClF5N2O5
